US06787536B2
4-{4-[5-(4-Fluorophenyl) pyrimidin-2-yl] piperazine-1-sulfonylmethyl}tetrahydropyran-4-carboxylic acid-N-hydroxyamide
Prepared according to the method for the preparation of 2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-N-hydroxy-3-methyl-butyramide, from 4-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonyl-methyl}tetrahydropyran-4-carboxylic acid (0.29 g), to provide the title compound as a white solid (0.27 g, 92%).

reactant | 2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-N-hydroxy-3-methyl-butyramide | FC1=CC=C(C=C1)C=1C=NC(=NC1)N1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)NO)C(C)C | C20H26FN5O4S
reactant | 4-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonyl-methyl}tetrahydropyran-4-carboxylic acid | 0.29 g | FC1=CC=C(C=C1)C=1C=NC(=NC1)N1CCN(CC1)S(=O)(=O)CC1(CCOCC1)C(=O)O | C21H25FN4O5S
product | 4-{4-[5-(4-Fluorophenyl) pyrimidin-2-yl] piperazine-1-sulfonylmethyl}tetrahydropyran-4-carboxylic acid-N-hydroxyamide | 0.27 g, 92% | ONC(=O)C1(CCOCC1)CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=N1)C1=CC=C(C=C1)F | C21H26FN5O5S
